US06737466B2
1,2-Epoxy-9-decene;
2-Butenedioic acid (2Z)-sodium salt, polymer with 1,3-butadiene, ethenylbenzene, 2,5-furandione, 2-methyl-1-propene and 2,2′,2″-[1,2,3-propanethyltris(oxymethylene)]tris[oxirane], block (9Cl)

reactant | 1,3-butadiene | C=CC=C | C4H6
reactant | ethenylbenzene | C(=C)C1=CC=CC=C1 | C8H8
reactant | 2,5-furandione | O1C(C=CC1=O)=O | C4H2O3
reactant | 2-methyl-1-propene | CC(=C)C | C4H8
reactant | 2,2′,2″-[1,2,3-propanethyltris(oxymethylene)]tris[oxirane] | C(C(COCC1OC1)OCC1OC1)OCC1OC1 | C12H20O6
product | 1,2-Epoxy-9-decene | O1CC1CCCCCCC=C | C10H18O
